US05047489
1-Cyclohexyloxy-2,2,6,6-tetramethyl-4-acryloyloxypiperidine
A solution of 1.6 ml of acryloyl chloride in 20 ml of methylene chloride is added to a stirred solution of 5.11 grams of 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol and 3.10 ml of triethylamine in 20 ml of methylene chloride at 0° C. After stirring at room temperature for 2 hours, the solvent is removed under reduced pressure. The residue is then purified by liquid chromatography to afford the title compound as a white solid with a melting point of 49°-52° C.

reactant | acryloyl chloride | 1.6 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol | 5.11 grams | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
reactant | triethylamine | 3.10 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-Cyclohexyloxy-2,2,6,6-tetramethyl-4-acryloyloxypiperidine | C1(CCCCC1)ON1C(CC(CC1(C)C)OC(C=C)=O)(C)C | C18H31NO3
